US05212187
N-[6-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]hexyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-nitro-1,1-ethenediamine
Preparation is effected analogously to Example 22, using 0.54 g (1.45 mmol) of N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,6-hexanediamine and the equimolar amount of 1-methylthio-1-[3-[3-(piperidinomethyl)phenoxy]propyl]amino-2-nitroethene as starting materials. Working up by chromatography analogously to Example 22 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=688 ([M+H]+, 5), 121 (100). For further analysis, a portion of the compound is converted into the tartaric acid salt in an ethanol/ether solvent mixture; m.p.: 73° C. (ethanol/ether).

reactant | N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,6-hexanediamine | 1.45 mmol, 0.54 g | COC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCCCCN)C)C=C1 | C22H34N4O
reactant | 1-methylthio-1-[3-[3-(piperidinomethyl)phenoxy]propyl]amino-2-nitroethene | CSC(=C[N+](=O)[O-])NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C18H27N3O3S
product | N-[6-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]hexyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-nitro-1,1-ethenediamine | COC1=CC=C(CN(C2=NC=CC=C2)CCN(C)CCCCCCNC(=C[N+](=O)[O-])NCCCOC2=CC(=CC=C2)CN2CCCCC2)C=C1 | C39H57N7O4
